US07144913B2
Step 1: (+/−)-Ethyl 2-(4-chlorobenzyl)-3-oxobutanoate
To a suspension of NaH (1.6 g, 40 mmol) in DMF (60 mL) at 0° C. was added ethyl acetoacetate (5.7 g, 44 mmol). The mixture was stirred for 30 minutes and p-chlorobenzyl bromide (8.2 g, 40 mmol) was added. The reaction mixture was stirred at r.t. for 2 hours and then quenched with water and extracted with EtOAc. The combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography eluted with 10% EtOAc in Hexanes to provide 6.5 g of the title compound as a colorless oil.

reactant | NaH | 40 mmol, 1.6 g | [H-].[Na+]
reactant | ethyl acetoacetate | 44 mmol, 5.7 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | p-chlorobenzyl bromide | 40 mmol, 8.2 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (+/−)-Ethyl 2-(4-chlorobenzyl)-3-oxobutanoate | 6.5 g | ClC1=CC=C(CC(C(=O)OCC)C(C)=O)C=C1 | C13H15ClO3
